US08372855B2
3-benzyl-3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline
16.0 g potassium carbonate and 20.0 g 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan are added at 50° C. to 20.0 g 3-benzyl-3,4-dihydro-4-oxo-6-hydroxy-7-methoxy-quinazoline in 150 ml N,N-dimethylformamide and the mixture is vigorously stirred for 18 hours at 80° C. To complete the reaction potassium carbonate and 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan are each added three times and in each case the mixture is stirred for several hours at 80° C. The reaction mixture is cooled and slowly combined with a total of 500 ml of water. The precipitate is suction filtered, washed with water and dried.

reactant | potassium carbonate | 16.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan | 20.0 g | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
reactant | 3-benzyl-3,4-dihydro-4-oxo-6-hydroxy-7-methoxy-quinazoline | C(C1=CC=CC=C1)N1C=NC2=CC(=C(C=C2C1=O)O)OC | C16H14N2O3
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-benzyl-3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | C(C1=CC=CC=C1)N1C=NC2=CC(=C(C=C2C1=O)OC1CCC2(OCCO2)CC1)OC | C24H26N2O5
